US08859544B2
Methyl 3-{2-methyl-3-[(2-methyl-4-oxo-3,4-dihydroquinazolin-6-yl)-carbonyl]indolizin-1-yl}benzoate
0.139 g (0.78 mmol) of [3-(methoxycarbonyl)phenyl]boronic acid, 0.321 g (1.29 mmol) of potassium phosphate dihydrate dissolved in 0.81 ml of water, and 0.0149 g (0.01 mmol) of tetrakis(triphenylphosphine)palladium are added, under an argon atmosphere at ambient temperature, to 0.256 g (0.65 mmol) of 6-[(1-bromo-2-methylindolizin-3-yl)carbonyl]-2-methylquinazolin-4(3H)-one in 9 ml of DMF. The reaction medium is microwave-heated at 150° C. for 15 minutes. After dilution with ethyl acetate, the organic phase is washed with a 1N aqueous solution of hydrochloric acid and then a saturated aqueous solution of sodium chloride, dried over sodium sulphate, filtered, and then concentrated under reduced pressure. The solid obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (95/2) mixture. 172 mg of a yellow solid are obtained.

reactant | [3-(methoxycarbonyl)phenyl]boronic acid | 0.78 mmol, 0.139 g | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | potassium phosphate dihydrate | 1.29 mmol, 0.321 g | O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 6-[(1-bromo-2-methylindolizin-3-yl)carbonyl]-2-methylquinazolin-4(3H)-one | 0.65 mmol, 0.256 g | BrC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(NC(=NC2=CC1)C)=O)C | C19H14BrN3O2
solvent | water | 0.81 ml | O | H2O
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 0.0149 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-{2-methyl-3-[(2-methyl-4-oxo-3,4-dihydroquinazolin-6-yl)-carbonyl]indolizin-1-yl}benzoate | 172 mg | CC=1C(=C2C=CC=CN2C1C(=O)C=1C=C2C(NC(=NC2=CC1)C)=O)C=1C=C(C(=O)OC)C=CC1 | C27H21N3O4
